US04209621
5-(p-Trifluoromethylphenyl)-2-pyrimidinol
By the procedure described in Example 4, (p-trifluoromethylphenyl)formimidoylacetaldehyde is reacted with urea to give the product of the Example (recrystallized from ethanol), m.p. 271°-273° C.

reactant | (p-trifluoromethylphenyl)formimidoylacetaldehyde | FC(C1=CC=C(C=C1)C(=N)CC=O)(F)F | C10H8F3NO
reactant | urea | NC(=O)N | CH4N2O
reactant | ethanol | C(C)O | C2H6O
product | 5-(p-Trifluoromethylphenyl)-2-pyrimidinol | FC(C1=CC=C(C=C1)C=1C=NC(=NC1)O)(F)F | C11H7F3N2O
